US07723352B2
Following the procedure for 2-[3-(6-methoxy-3-methyl-1-oxo-4-phenylisoquinolin-2(1H)-yl)propyl]-1H-isoindole-1,3(2H)-dione, using 2-(Boc-amino) ethyl bromide in place of 3-phthalimido-1-bromopropane, tert-butyl 2-(6-methoxy-3-methyl-1-oxo-4-phenylisoquinolin-2(1H)-yl)ethylcarbamate was obtained.

reactant | 2-[3-(6-methoxy-3-methyl-1-oxo-4-phenylisoquinolin-2(1H)-yl)propyl]-1H-isoindole-1,3(2H)-dione | COC=1C=C2C(=C(N(C(C2=CC1)=O)CCCN1C(C2=CC=CC=C2C1=O)=O)C)C1=CC=CC=C1 | C28H24N2O4
reactant | 2-(Boc-amino) ethyl bromide | C(=O)(OC(C)(C)C)NCCBr | C7H14BrNO2
product | tert-butyl 2-(6-methoxy-3-methyl-1-oxo-4-phenylisoquinolin-2(1H)-yl)ethylcarbamate | COC=1C=C2C(=C(N(C(C2=CC1)=O)CCNC(OC(C)(C)C)=O)C)C1=CC=CC=C1 | C24H28N2O4
